US08895313B2
2-{4-[2-(3-Methoxyphenyl)-vinyl]-phenyl}-6-methylbenzothiazole
Prepared as described in the Alkene Formation section using diethyl 4-(6-methoxybenzothiazol-2-yl)benzylphosphonate (0.05 g, 0.133 mmol) in dry THF (5 ml), potassium t-butoxide (0.03 g, 0.266 mmol) and 3-methoxybenzaldehyde (0.018 g, 0.133 mmol) in dry THF (5 ml) to give the title compound (0.016 g, 34%) as a yellow solid after work-up and flash chromatography (4:1 Hexane/Et2O).

reactant | diethyl 4-(6-methoxybenzothiazol-2-yl)benzylphosphonate | 0.133 mmol, 0.05 g | COC1=CC2=C(N=C(S2)C2=CC=C(CP(OCC)(OCC)=O)C=C2)C=C1 | C19H22NO4PS
reactant | potassium t-butoxide | 0.266 mmol, 0.03 g | CC(C)([O-])C.[K+]
reactant | 3-methoxybenzaldehyde | 0.133 mmol, 0.018 g | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | Hexane Et2O | CCCCCC.CCOCC
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-{4-[2-(3-Methoxyphenyl)-vinyl]-phenyl}-6-methylbenzothiazole | 0.016 g, 34% | COC=1C=C(C=CC1)C=CC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C | C23H19NOS
